US07417065B2
To a solution of β-alanine methyl ester hydrochloride salt (2 eq) in dry DMF (0.5 M) is added NaH (3.5 eq). After stirring at room temperature for 10 minutes, a solution of 5-bromomethyl-2-(2-trifluoromethyl-biphenyl-4-yl)-benzooxazole (1 eq) in dry DMF (1 M) is added. The resulting mixture is stirred at room temperature for 2 hours. It is diluted with H2O and extracted with EtOAc. The organic solution is washed with brine and dried over Na2SO4. After concentration, the residue is dissolve in MeOH (0.2 M) and treated with 2N LiOH solution (3 eq) for 10 hours. The final compound is purified by preparative LCMS to give 3-{[2-(2-trifluoromethyl-biphenyl-4-yl)-benzooxazol-5-ylmethyl]-amino}-propionic acid; 1H NMR (400 MHz, CD3OD) δ 2.74 (t, J=6.7 Hz, 2H), 3.30 (t, J=6.8 Hz, 2H), 4.39 (s, 2H), 7.34 (m, 2H), 7.43 (m, 3H), 7.57 (m, 2H), 7.78 (d, J=8.3 Hz, 1H), 7.94 (s, 1H), 8.43 (d, J =8.0 Hz, 1H), 8.59 (s, 1H). MS: (ES+): 441.3 (M+1)+.

reactant | β-alanine methyl ester hydrochloride salt | 2 eq | Cl.COC(CCN)=O
reactant | NaH | 3.5 eq | [H-].[Na+]
reactant | 5-bromomethyl-2-(2-trifluoromethyl-biphenyl-4-yl)-benzooxazole | 1 eq | BrCC=1C=CC2=C(N=C(O2)C2=CC(=C(C=C2)C2=CC=CC=C2)C(F)(F)F)C1 | C21H13BrF3NO
reactant | LiOH | 2N, 3 eq | [Li+].[OH-]
solvent | DMF | 0.5 M | CN(C)C=O | C3H7NO
solvent | DMF | 1 M | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 3-{[2-(2-trifluoromethyl-biphenyl-4-yl)-benzooxazol-5-ylmethyl]-amino}-propionic acid | FC(C1=C(C=CC(=C1)C=1OC2=C(N1)C=C(C=C2)CNCCC(=O)O)C2=CC=CC=C2)(F)F | C24H19F3N2O3
